*
.SUBCKT BDL31 1 2 3 
* housing parasitics
LBlead 2 22 1.63E-09 
LE 3 333 3.77E-09 
LC 1 11 4.1E-10 
LBbond 22 222 2.5E-09 
CBCG 222 11 1.76E-13 
CBEG 222 333 8.6E-14 
CCEG 11 333 1.76E-13 
Q1 11 222 333 BDL31  
.MODEL BDL31 NPN( 
+ IS = 9.791E-13 
+ NF = 0.9879 
+ ISE = 1.549E-14 
+ NE = 1.461 
+ BF = 399.9 
+ IKF = 5.58 
+ VAF = 54.99 
+ NR = 0.9914 
+ ISC = 3.649E-14 
+ NC = 1.486 
+ BR = 101 
+ IKR = 0.39 
+ VAR = 11.9 
+ RB = 33.6 
+ IRB = 0.0003203 
+ RBM = 1.18 
+ RE = 0.0917 
+ RC = 0.02 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 4.493E-10 
+ VJE = 0.9469 
+ MJE = 0.4101 
+ TF = 6E-10 
+ XTF = 59 
+ VTF = 3 
+ ITF = 11 
+ PTF = 0 
+ CJC = 2.441E-10 
+ VJC = 0.3643 
+ MJC = 0.32 
+ XCJC = 1 
+ TR = 1.5E-08 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78) 
.ENDS
*
