*
.SUBCKT BDL32 1 2 3 
* housing parasitics
LBlead 2 22 1.63E-09 
LE 3 333 4.1E-09 
LC 1 11 4.1E-10 
LBbond 22 222 2.5E-09 
CBCG 222 11 1.76E-13 
CBEG 222 333 8.6E-14 
CCEG 11 333 1.76E-13 
Q1 11 222 333 BDL32 
.MODEL BDL32 PNP( 
+ IS = 1.234E-12 
+ NF = 1.006 
+ ISE = 5.054E-14 
+ NE = 1.336 
+ BF = 408.8 
+ IKF = 2.02 
+ VAF = 19.82 
+ NR = 1.009 
+ ISC = 7.617E-13 
+ NC = 1.4 
+ BR = 84.9 
+ IKR = 0.2 
+ VAR = 15 
+ RB = 91.32 
+ IRB = 6.471E-06 
+ RBM = 0.1 
+ RE = 0.1609 
+ RC = 0.001 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 3.429E-10 
+ VJE = 1 
+ MJE = 0.5228 
+ TF = 7E-10 
+ XTF = 24 
+ VTF = 3 
+ ITF = 5 
+ PTF = 0 
+ CJC = 2.693E-10 
+ VJC = 0.9239 
+ MJC = 0.4635 
+ XCJC = 1 
+ TR = 1.2E-08 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78) 
.ENDS
*
