*
.SUBCKT BDP31 1 2 3 
*
* housing parasitics
*
LBlead 2 22 1.63E-09 
LE 3 333 3.77E-09 
LC 1 11 4.1E-10 
LBbond 22 222 2.5E-09 
CBCG 222 11 1.76E-13 
CBEG 222 333 8.6E-14 
CCEG 11 333 1.76E-13 
*
Q1 11 222 333 BDP31 AREA = 1 
.MODEL BDP31 NPN (
+ IS = 1.806E-13 
+ NF = 0.9945 
+ ISE = 1.425E-13 
+ NE = 1.987 
+ BF = 70.03 
+ IKF = 8 
+ VAF = 270 
+ NR = 0.999 
+ ISC = 2.431E-14 
+ NC = 1.104 
+ BR = 10.24 
+ IKR = 0.5 
+ VAR = 65 
+ RB = 8.104 
+ IRB = 0.0002958 
+ RBM = 0.1 
+ RE = 0.126 
+ RC = 0.001 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 6.553E-10 
+ VJE = 0.6879 
+ MJE = 0.3339 
+ TF = 1.1E-09 
+ XTF = 67 
+ VTF = 5 
+ ITF = 7.5 
+ PTF = 0 
+ CJC = 1.321E-10 
+ VJC = 0.6299 
+ MJC = 0.4519 
+ XCJC = 1 
+ TR = 9.5E-08 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78)
.ENDS
*
